US06890919B2
8.16 g Methyl S-(2-amino-4-chloromethylphenyl)thiosalicylate was dissolved in THF (50 mL) and methanol (50 mL), and treated with 5N sodium hydroxide solution (20 mL) with stirring at room temperature for 17 h. The reaction mixture was concentrated in vacuo, diluted with water, and acidified to pH 1-2 with 6N hydrochloric acid. The resulting suspension was filtered, and recrystallized from n-heptane to provide S-(2-amino-4-chloromethylphenyl)thiosalicylic acid as a light gray solid, 1H NMR (300 MHz, CDCl3), δ 6.77 (dd, 1H, J=2.7 Hz, J=2.1 Hz), 6.83 (d, 1H, J=2.1 Hz), 7.18 (t, 1H), 7.367 (s, 1H), 7.32 (t, 1H), 7.38 (d, 1H, J=8.4 Hz), 8.13 (d, 1H, J=1.8 Hz).

reactant | Methyl S-(2-amino-4-chloromethylphenyl)thiosalicylate | 8.16 g | NC1=C(C=CC(=C1)CCl)SC=1C(C(=O)OC)=CC=CC1 | C15H14ClNO2S
reactant | sodium hydroxide | 5N, 20 mL | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | S-(2-amino-4-chloromethylphenyl)thiosalicylic acid | NC1=C(C=CC(=C1)CCl)SC=1C(C(=O)O)=CC=CC1 | C14H12ClNO2S
